US07423158B2
Preparation of 5-(3-Acetylphenyl)-2-amino-5-[4-(difluoromethoxy)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one
A mixture of 2-amino-5-(3-bromophenyl)-5-[4-(difluoromethoxy)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one (1.50 g, 3.66mmol), 1,3-bis(diphenylphosphino)propane (DPPP) (0.377 g, 0.915 mmol), K2CO3 (0.606 g, 4.39 mmol), Pd(OAc)2 (82 mg, 0.37 mmol) and n-butylvinylether (1.47 g, 14.6 mmol) in DMF/water (8 ml/0.8 ml) is heated in a microwave oven for 1 h at 120° C., cooled to room temperature, treated cautiously with 15 ml of 5% HCl, stirred at room temperature for 1 h, diluted with water, basified with aqueous K2CO3 and extracted with ethyl acetate. The extracts are combined, dried over MgSO4 and concentrated in vacuo to give a residue. The residue is purified by SCX cartridge to give the title compound, 1.20 g (88% yield), identified by NMR and mass spectral analyses. 1H NMR (300 MHz,CDCl3) ppm 8.11 (t, 1 H), 7.87 (dt, 1 H), 7.72-7.80 (m, 1 H), 7.52 (d, 2 H), 7.44 (t, 1 H), 7.08 (d, 2 H), 6.49 (t, 1 H), 3.15 (s, 3 H), 2.59 (s, 3 H). MS [M+H]+ 374.1.

reactant | 2-amino-5-(3-bromophenyl)-5-[4-(difluoromethoxy)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | 3.66mmol, 1.50 g | NC1=NC(C(N1C)=O)(C1=CC=C(C=C1)OC(F)F)C1=CC(=CC=C1)Br | C17H14BrF2N3O2
reactant | 1,3-bis(diphenylphosphino)propane | 0.915 mmol, 0.377 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | K2CO3 | 4.39 mmol, 0.606 g | C(=O)([O-])[O-].[K+].[K+]
reactant | n-butylvinylether | 14.6 mmol, 1.47 g | C(CCC)OC=C | C6H12O
reactant | HCl | 15 ml | Cl | ClH
solvent | DMF water | 8 ml | CN(C)C=O.O
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.37 mmol, 82 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(3-Acetylphenyl)-2-amino-5-[4-(difluoromethoxy)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | 88% yield | C(C)(=O)C=1C=C(C=CC1)C1(C(N(C(=N1)N)C)=O)C1=CC=C(C=C1)OC(F)F | C19H17F2N3O3
